US07560571B2
The process is performed in a manner similar to that described in Example 39 but starting with pyrrolidine and ethyl 5-carbamoyl-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrole-3-carboxylate. After a similar work-up, 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-4-(pyrrolidine-1-carbonyl)-1H-pyrrole-2-carboxamide is obtained; ES+: m/z=504 [M+H]+.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | ethyl 5-carbamoyl-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrole-3-carboxylate | C(N)(=O)C1=C(C(=CN1)C(=O)OCC)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C22H18F4N4O4
product | 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-4-(pyrrolidine-1-carbonyl)-1H-pyrrole-2-carboxamide | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC=C1C(=O)N1CCCC1)C(=O)N)=O | C24H21F4N5O3
